US06660744B1
To a 0° C. mixture of di-t-butyldicarbonate (9 mL, 39 mmol, 1.3 equiv) in CH2Cl2 (75 mL) was added a solution of 3-bromoaniline (3.3 mL, 30 mmol, 1 equiv) in CH2Cl2 (75 mL). The reaction mixture was allowed to warm slowly to ambient temperature and was stirred for 16 h. The crude reaction mixture was partitioned between saturated aqueous sodium bicarbonate (50 mL) and EtOAc (50 mL). The organic layer was separated, and the aqueous layer was extracted with EtOAc (100 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated to afford a red oil. Purification by column chromatography on silica gel (elution with 1 L of 3% EtOAc/heptane and 1 L 5% EtOAc/heptane) afforded tert-butyl N-(3-bromophenyl)carbamate as a sticky yellow solid (9.0 g, 33 mmol): 1H NMR (d6 DMSO, 400 MHz): δ H 9.54 (1H, s), 7.75 (1H, s), 7.37-7.39 (1H, m), 7.12-7.22 (2H, m), and 1.47 (9H, s).

reactant | di-t-butyldicarbonate | 39 mmol, 9 mL, 1.3 equiv | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-bromoaniline | 30 mmol, 3.3 mL, 1 equiv | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-(3-bromophenyl)carbamate | 33 mmol, 9.0 g | BrC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H14BrNO2
